US08703761B2
A. 2-Amino-N-[4-(4-fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-yl]-2-methyl-propionamide
{1-[4-(4-Fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester was stirred overnight in freshly prepared HCl (g)/EtOAc solution. Evaporation to dryness afforded the title compound as the hydrochloride salt. 1H NMR (400 MHz, DMSO-D6) 1.63 (s, 6H) 2.81-2.89 (m, 4H) 3.70-3.78 (m, 4H) 7.23-7.29 (m, 2H) 8.10-8.16 (m, 2H) 8.62 (s, 3H) 12.46 (s, 1H).

reactant | {1-[4-(4-Fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-ylcarbamoyl]-1-methyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C)(C)C(NC=1SC(=C(N1)C1=CC=C(C=C1)F)N1CCOCC1)=O)=O | C22H29FN4O4S
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Amino-N-[4-(4-fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-yl]-2-methyl-propionamide | NC(C(=O)NC=1SC(=C(N1)C1=CC=C(C=C1)F)N1CCOCC1)(C)C | C17H21FN4O2S
